US08729099B2
b) 2,3,4,6-Tetra-O-benzyl-1,5-di-O-mesyl-D-galactitol
2,3,4,6-Tetra-O-benzyl-D-galactitol (7.6 g) was stirred at 0° C. in pyridine (20 ml) and a solution of mesyl chloride (2.5 ml) in pyridine (20 ml) was added. The solution was stored at 4° C. overnight. TLC analysis showed completion of the reaction. The reaction mixture was partitioned between ethyl acetate and water/ice. The organic fractions were washed with 5% hydrochloric acid then saturated aqueous sodium bicarbonate solution, dried (Na2SO4) and concentrated to give a colourless oil which was used directly in the next stage.

reactant | 2,3,4,6-Tetra-O-benzyl-D-galactitol | 7.6 g | C(C1=CC=CC=C1)O[C@@H](CO)[C@@H](OCC1=CC=CC=C1)[C@@H](OCC1=CC=CC=C1)[C@H](O)COCC1=CC=CC=C1 | C34H38O6
reactant | mesyl chloride | 2.5 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2,3,4,6-Tetra-O-benzyl-1,5-di-O-mesyl-D-galactitol | C(C1=CC=CC=C1)O[C@@H](COS(=O)(=O)C)[C@@H](OCC1=CC=CC=C1)[C@@H](OCC1=CC=CC=C1)[C@H](OS(=O)(=O)C)COCC1=CC=CC=C1 | C36H42O10S2
